US04640916
A solution of 3.10 g of 2-amino-5-methoxythiophenol and 5.20 g of methyl 2,4-dibromobutyrate in 30 ml of dimethylformamide was stirred at room temperature for 2 hours. The mixture was poured into ice-water and the resulting crystals were collected by filtration and washed with water. Recrystallization from methanol gave 3.94 g (65.2%) of 2-(2-bromoethyl)-7-methoxy-2H-1,4-benzothiazin-3(4H)-one as prisms, m.p. 142°-143° C.

reactant | 2-amino-5-methoxythiophenol | 3.10 g | NC1=C(C=C(C=C1)OC)S | C7H9NOS
reactant | methyl 2,4-dibromobutyrate | 5.20 g | BrC(C(=O)OC)CCBr | C5H8Br2O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromoethyl)-7-methoxy-2H-1,4-benzothiazin-3(4H)-one | 3.94 g, 65.2% | BrCCC1SC2=C(NC1=O)C=CC(=C2)OC | C11H12BrNO2S
